* D:\GitHub\physics_laboratory_2020_2021\AMPLIFICATORI OPERAZIONALI\Simulations\OpAmp\SIM\OPAMP.asc
V1 V+ 0 15
V2 V- 0 -15
XU1 0 N002 V+ V- OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N002 IN 8.1k
Rf1 OUT N002 82.5k
Rg1 IN N001 25
Vg1 N001 0 SINE(0 1 1k 0 0 0 200)
.tran 0 20m 0 0.5m
.lib UniversalOpamps2.sub
.backanno
.end
