* D:\GitHub\physics_laboratory_2020_2021\CATENA ELETTRONICA\Simulations\PreAmp\PreAmp_frequency.asc
V1 V+ 0 15
V2 V- 0 -15
XU1 0 A V+ V- OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Rin1 A IN 60k
Rf_pre1 OUT A 800k
Rg1 IN N001 25
Vg1 N001 0 SINE(0 1 1k 0 0 0 1m) AC 1 0
Cf_pre1 OUT A 200p
.ac dec 50 10 1Meg
.lib UniversalOpamps2.sub
.backanno
.end
