* D:\GitHub\physics_laboratory_2020_2021\CATENA ELETTRONICA\Simulations\Shaper\Shaper_PreAmp_base.asc
V1 V+ 0 15
V2 V- 0 -15
XU1 0 A V+ V- N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Rin A IN 56.564k
Rf_pre N001 A 696.060k
Rg IN N002 25
Vg N002 0 PULSE(0 -1 1u 0 0 5u 1m)
Cf_pre N001 A 222p
XU2 N004 N003 V+ V- N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Csh1 N004 N001 157p
Rsh1 0 N004 101k
Rsh2 OUT N003 99.9k
Csh2 OUT 0 159p
.tran 0 5m 0 0.1u
.lib UniversalOpamps2.sub
.backanno
.end
